US08729079B2
d: 2-morpholino-4-(4-(piperazin-1-ylmethyl)phenylamino)pyrimido[4,5-d]pyridazin-5(6H)-one hydrochloride
Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-formyl-2-morpholinopyrimidine-5-carboxylate (100 mg, 0.18 mmol) was dissolved in ethanol, hydrazine dihydrochloride (28 mg, 26 mmol) was added and the mixture was refluxed for 3 hours. The solid precipitated was filtered and dried in vacuum to give the desired product (49 mg).

reactant | Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-formyl-2-morpholinopyrimidine-5-carboxylate | 0.18 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)C=O)N1CCOCC1 | C28H38N6O6
reactant | hydrazine dihydrochloride | 26 mmol, 28 mg | Cl.Cl.NN
solvent | ethanol | C(C)O | C2H6O
product | 2-morpholino-4-(4-(piperazin-1-ylmethyl)phenylamino)pyrimido[4,5-d]pyridazin-5(6H)-one hydrochloride | 49 mg | Cl.O1CCN(CC1)C=1N=C(C2=C(C=NNC2=O)N1)NC1=CC=C(C=C1)CN1CCNCC1 | InChI=1S/C21H26N8O2.ClH/c30-20-18-17(13-23-27-20)25-21(29-9-11-31-12-10-29)26-19(18)24-16-3-1-15(2-4-16)14-28-7-5-22-6-8-28;/h1-4,13,22H,5-12,14H2,(H,27,30)(H,24,25,26);1H
